US06337326B1
1-(3-Trifluoromethyl-phenyl)-[1,4]diazepane
The title compound was prepared according to the procedure of Example 1, Step 6 except that 4-(3-trifluoromethyl-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester was used in place of 4-(2-methoxy-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester. Yield: 91%; 1H NMR (300 MHz, CDCl3): δ1.77 (brs, 1H), 1.92 (pent, J=5.9 Hz, 2H), 2.84 (t, J=5.8 Hz, 2H), 3.04 (t, J=5.4 Hz, 2H), 3.56-3.62 (m, 4H), 6.77-6.88 (m, 3H), 7.29 (d, J=7.7 Hz, 1H); IR (KBr, cm−1): 3286w; MS (ES) m/z (relative intensity): 245 (M++H, 60). Anal. Calcd. for C12H15F3N2: C, 59.01; H, 6.19; N, 11.47. Found: C, 58.56; H, 6.03; N, 10.98.

reactant | 4-(3-trifluoromethyl-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC(=CC=C1)C(F)(F)F | C17H23F3N2O2
reactant | KBr | [K+].[Br-]
product | 1-(3-Trifluoromethyl-phenyl)-[1,4]diazepane | Yield: 91% | FC(C=1C=C(C=CC1)N1CCNCCC1)(F)F | C12H15F3N2
